* Z:\mnt\design.r\spice\examples\3308A.asc
L1 N002 OUT 220n
R1 OUT N003 260K
V1 IN 0 4.5
R2 N003 0 100K
C1 OUT 0 22µ
R4 OUT N001 500K
C3 OUT N003 2.2p
Rload OUT 0 0.6
XU1 IN IN N002 N003 0 0 IN N001 0 LTC3308A
.tran 1.5m startup
.lib LTC3308A.sub
.backanno
.end
